US06900215B2
2-Bromo-5-fluorobenzonitrile was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as described in Example 51 to give 4,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile as a black solid: δH (360 MHz, CDCl3) 7.38-7.56 (4H, m), 8.33-8.40 (2H, m).

reactant | 2-Bromo-5-fluorobenzonitrile | BrC1=C(C#N)C=C(C=C1)F | C7H3BrFN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 4,2′-difluoro-5′-nitrobiphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])F)C#N | C13H6F2N2O2
